US08536160B2
3β-(N-(tert-Butoxycarbonyl)azetidin-3-ylcarbonyloxy)androstane-6,17-dione (II-bh)
Prepared in 65% yield from 3β-hydroxyandrostane-6,17-dione and 1-(tert-butoxycarbonyl)-3-azetidinecarboxylic acid by the procedure described in Prepn. 43. 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 4.66 (1H, m), 4.50-1.00 (29H, m), 1.35 (9H, s), 0.78 (3H, s), 0.69 (3H, s).

reactant | 3β-hydroxyandrostane-6,17-dione | O[C@@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O | C19H28O3
reactant | 1-(tert-butoxycarbonyl)-3-azetidinecarboxylic acid | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
product | 3β-(N-(tert-Butoxycarbonyl)azetidin-3-ylcarbonyloxy)androstane-6,17-dione | 65% yield | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O[C@@H]1CC2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)=O | C28H41NO6
